US06914062B2
1,2-phenylenediamine (2.3 g) and acetic acid (1 ml) were added to a solution of the compound mentioned above (7.54 g) in toluene (50 ml), and the mixture was heated under reflux for an hour. The solid formed upon addition of ether to the reaction mixture at 0° C. was filtered to give a quinoxaline derivative (1.91 g). The compound was dissolved in tetrahydrofuran (500 ml), and sodium hydride (60%, 1.0 g) and 2-trimethylsilylethoxymethyl chloride (8.6 ml) were added to the solution at room temperature. The mixture was stirred for an hour. Aqueous ammonium chloride was added to the reaction mixture, and then extracted with ethyl acetate. The organic layer was washed with water and aqueous ammonium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give a compound protected by the SEM group.

reactant | 1,2-phenylenediamine | 2.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | quinoxaline | 1.91 g | N1=CC=NC2=CC=CC=C12 | C8H6N2
